US06677349B1
Under a nitrogen atmosphere, 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (500 mg, 1.6 mmol) was dissolved in dichloromethane (5 mL) and triethylamine (0.33 mL, 2.4 mmol). 3-Chloropropylsulfonyl chloride (0.19 mL, 1.6 mmol) was added dropwise and the reaction was stirred for 2 hours. The solvent was removed in vacuo. The residue was dissolved in N,N-dimethylformamide (5 mL) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.48 mL, 3.2 mmol) was added. The reaction was stirred for 72 hours and then poured into water and extracted with dichloromethane. The organic layer was washed with water followed by brine; dried (Na2SO4); decanted and evaporated to yield crude product as a brown oil. Purification involved flash column chromatography (silica gel, gradient elution with methanol/dichloromethane 100:0 to 94:6) followed by recrystallization from acetonitrile to provide 289 mg of 1-[4-(1,1-dioxidoisothiazolidin-2-yl)butyl]-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine as a yellow crystalline solid, m.p. 156.4-157.7° C.

reactant | 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 1.6 mmol, 500 mg | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C17H23N5O
reactant | triethylamine | 2.4 mmol, 0.33 mL | C(C)N(CC)CC | C6H15N
reactant | 3-Chloropropylsulfonyl chloride | 1.6 mmol, 0.19 mL | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3.2 mmol, 0.48 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-[4-(1,1-dioxidoisothiazolidin-2-yl)butyl]-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 289 mg | O=S1(N(CCC1)CCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC)=O | C20H27N5O3S
